US07524822B2
1,2-Dihydro-1-(1-methylethyl)-4-[(2-fluor-4-methoxyphenyl)-(ethoxy)methyl]-5-methyl-3H-pyrazol-3-one (IV.1)
Pyrrolidine (21 ml; 0.257 mol) and acetic acid (22 ml; 0.385 mol) are added to a mixture of 1,2-dihydro-1-(1-methylethyl)-5-methyl-3H-pyrazol-3-one (180 g; 1.28 mol) and 2-fluoro-4-methoxybenzaldehyde (198 g; 1.28 mol) in ethanol (2.7 L). The suspension is heated to about 50° C. for about 67 h. The reaction mixture is then cooled to approx. 17° C. and filtered. The product is washed with diisopropyl ether (500 ml) and subsequently refluxed with THF (2.5 L). The obtained solution is filtered over a pad of Celite and charcoal. The filtrate is concentrated in vacuo and water (2 L) is added to the suspension which is cooled and filtered. The colourless crystals are dried at 50° C.

reactant | Pyrrolidine | 0.257 mol, 21 ml | N1CCCC1 | C4H9N
reactant | acetic acid | 0.385 mol, 22 ml | C(C)(=O)O | C2H4O2
reactant | 1,2-dihydro-1-(1-methylethyl)-5-methyl-3H-pyrazol-3-one | 1.28 mol, 180 g | CC(C)N1NC(C=C1C)=O | C7H12N2O
reactant | 2-fluoro-4-methoxybenzaldehyde | 1.28 mol, 198 g | FC1=C(C=O)C=CC(=C1)OC | C8H7FO2
solvent | ethanol | 2.7 L | C(C)O | C2H6O
product | 1,2-Dihydro-1-(1-methylethyl)-4-[(2-fluor-4-methoxyphenyl)-(ethoxy)methyl]-5-methyl-3H-pyrazol-3-one | CC(C)N1NC(C(=C1C)C(OCC)C1=C(C=C(C=C1)OC)F)=O | C17H23FN2O3
